US05003097
Preparation of 3H-1,2-Benzodithiol-3-one 1,1-dioxide
To a stirred suspension of 3H-1,2-Benzodithiol-3-one (39.2 g, 0.23 mole) in trifluoroacetic acid (250 mL) was added 40 mL of a 30% aqueous solution of hydrogen peroxide. Cooling was necessary to maintain the internal reaction temperature between 40°-45° C. After 30 minutes, an additional 40 mL of 30% H2O2 was added and the reaction mixture was heated to ensure an internal reaction temperature of 40°-45° C. 30 minutes later, the last portion of 30% H2O2 (40 mL) was added under the same temperature conditions and the rate of the reaction was monitored by TLC (CHCl3) until the disappearance of the slow moving sulfoxide byproduct, i.e., 3H-1,2-benzodithiol-3-one 1-oxide (90 minutes). The reaction mixture was then filtered and the filtrate was added onto 3.5 L of crushed ice. The white precipitate was filtered through a 600 mL fritted glass funnel of coarse porosity and thoroughly washed with water until the filtrate was neutral and free of peroxides. The solid material was then transferred into a 500 mL separatory funnel to which was added dichloromethane (200 mL) and a 1% solution of sodium bisulfite (100 mL). After vigorous shaking, the organic phase was decanted and washed with water (100 mL). The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the amorphous solid was dried under vacuum. The crude compound (20.8 g) was dissolved in boiling dichloromethane (ca. 70 mL). Hexanes (ca. 50 mL) was added, and the boiling solution was allowed to cool to ambient temperature and then kept in the refrigerator at 10° C. The crystalline material was collected by filtration, washed with cold hexanes and dried under vacuum.

reactant | 3H-1,2-Benzodithiol-3-one | 0.23 mole, 39.2 g | S1SC(C2=C1C=CC=C2)=O | C7H4OS2
reactant | hydrogen peroxide | OO | H2O2
reactant | H2O2 | 40 mL | OO | H2O2
reactant | H2O2 | 40 mL | OO | H2O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | 3H-1,2-benzodithiol-3-one 1-oxide | S1(SC(C2=C1C=CC=C2)=O)=O | C7H4O2S2
solvent | trifluoroacetic acid | 250 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3H-1,2-Benzodithiol-3-one 1,1-dioxide | S1(SC(C2=C1C=CC=C2)=O)(=O)=O | C7H4O3S2
